US07399504B2
B. Synthesis of N,N-diphenyl-N-(3-t-butylcarboxyphenyl)amine
In a 1-L, 3-necked round bottom flask equipped with an overhead stirrer, a glass stopper, and a reflux condenser connected to a nitrogen inlet, palladium (II) acetate (585 mg, 2.61 mmol) and tri-o-tolylphosphine (1.67 g, 5.48 mmol) were combined with toluene (250 mL) and stirred under nitrogen for 15 minutes. Diphenylamine (14.70 g, 86.85 mmol), t-butyl-3-bromobenzoate (21.22 g, 82.52 mmol), sodium t-butoxide (12.52 g, 130.28 mmol), and toluene (250 mL) were added with stirring and reflux for 16 h. The mixture was cooled to room temperature and filtered through a coarse glass frit. The dark filtrate was passed through a column packed with silica gel (7×12 cm) and the filtered material was eluted with toluene, which was removed in vacuo to yield a dark oil, which crystallized upon standing overnight. The crystals were washed with ethanol, collected by filtration and dried in vacuo to yield the product as a white solid. The product was further recrystallized from ethanol to yield the product as white needles (15 g, 50%). HPLC: 99.7% pure.

reactant | tri-o-tolylphosphine | 5.48 mmol, 1.67 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | Diphenylamine | 86.85 mmol, 14.70 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | t-butyl-3-bromobenzoate | 82.52 mmol, 21.22 g | C(C)(C)(C)OC(C1=CC(=CC=C1)Br)=O | C11H13BrO2
reactant | sodium t-butoxide | 130.28 mmol, 12.52 g | CC(C)([O-])C.[Na+]
catalyst | palladium (II) acetate | 2.61 mmol, 585 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | N,N-diphenyl-N-(3-t-butylcarboxyphenyl)amine | C1(=CC=CC=C1)N(C1=C(C(=CC=C1)C(C)(C)C)C(=O)O)C1=CC=CC=C1 | C23H23NO2
